Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been really really depressed."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
When asked why she is in the ED, the patient reports "I've been
really really depressed." On ___ (6 days ago), she banged
her head against wall creating a hole in the wall and then
"swallowed a bunch of pills" (pt states she dumped a bottle of
zoloft into her hand, unclear number). Her boyfriend made her
vomit and then she went to bed. She states that after that
incident she felt medically well and had no sequelae. Today she
went to her therapist who suggested that she come to the ED. The
therapist called the pt's mom who arrived from ___ to
bring her here.

She states these actions were because she felt suicidal. She
denies currently feeling suicidal or having any current
plan/intent, but then notes that the SI feeling comes and goes 
on
a daily basis in her mind. She states one prior SA a couple of
years ago, which she describes as cutting herself on her stomach
with a razor (did not need medical attention). She denies any
other hx of SA other than noted above. 

She states that she has hx of head banging to the point of
concussion. She states this started in ___, with concussion
in ___ as well. Concussion was confirmed by medical doctor;
the back of her head still hurts.  She cannot distinguish if her
concentration is poor as a result of this as she also has ADHD.

She endorsing seeing her therapist once a week for the last
couple of years. She does not have a psychiatrist. She notes 
that
she receives her prescriptions from an NP but that this person
recently retired and she does not have a new provider for
medication management. However, she  also notes poor med
compliance and that she stopped taking her medications in the
___. Her rationale for stopping the medications was due to 
her
not thinking that she needed them and how they made her feel. No
sxs of withdrawal. After self-discontinuing her medications, she
states that she felt okay and started a new job but then started
to feel depressed again. Regarding the events on ___, she
states she had stopped the zoloft in the summer but had a bottle
left in her house which she used as above. 

In approx ___ she was admitted to an outpatient program at 
___ Partial for depression. She states that she did this for 
a
"good portion of the summer," approx 6 weeks. She states this 
was
somewhat helpful but an age mismatch as most pts there were much
older.

She states that ___ prior to the events above, she had
skipped school classes that day but denies any other events or
stressors out of the ordinary that day prior to ingestion. 

However, she then goes on to volunteer that she has notable
recent stressors including having undergone an abortion in
___ (two months prior). She states that her abortion makes
her feel worse about herself, exacerbated by the fact that her
family is ___. She states that her parents do not
know about the abortion and she does not want them to know. He
boyfriend does know and she describes him as supportive. At the
same time, she mentions that she has impulsive actions with him,
such as banging her head when he alludes to wanting to break up.

Furthermore, she states at additional triggers include her
grandfather's and grandmother's deaths in this ___
timeframe and that this is a difficult time of year for her in
general. 

When asked how we can be most helpful, states she does not know
and that she just feels she is in an "endless cycle." 

Additional PSYCH ROS:
- MDD: feels "depressed." energy/concentration low. appetite
intact but eating everything in the context of feeling 
depressed.
Low interest, skipping work and class. Endorses feeling 
hopeless.
- Mania/Bipolar: At first states some periods of banging head,
feeling incredibly angry. However, denies any periods of
insomnia/impuslive spending.
- SI: as above
- HI: denies
- Anxiety: + about "everything, school, work"
- PTSD: denies nightmares or flashback
- Psychosis/Hallucinations/Delusions: denies
- Eating Disorders: "did ballet forever" growing up with extreme
dieting. recently no eating disorders.
- ADHD/Learning Disorders: +ADHD since ___, was previously
taking adderral for years

 
Past Medical History:
PPHx:
- Dx: depression, anxiety, ADHD
- PHPs/Rehabs: one PHP ___ as noted above)
- Hospitalizations: denies
- SIB/SA: pt endorses 1 prior SA (patient describes this as
occurring two year ago via cutting her stomach, did not seek or
need medical attention)
- Medications Trials: in the summer was taking Zoloft and
Vyvanse, self-discontinued as per HPI. Prior had tried 
Wellbutrin
and a "few different things" but is unable to list names

- Current clinicians:
Psychiatrist/NP: none current, pt was seeing NP for medications
but she recently retired ___ in ___)
Therapist: ___  ___

PMHx:
- PCP: ___  ___, MD
- PMHx: denies
 
Social History:
SocHx:                            
- B/R: From ___
- Family/Supports: family still lives in ___. Mom and
Dad still married, no siblings. Gets along with her parents. 
- Education: ___ graduate next year (is ___
instead of a senior due to taking off a semester due to
depression in ___ -> took time off from school and therapist
referred her to partial as above). Studying ___ science and
___
- Employment: ___
- Living Situation: with 3 roommates in ___ (off 
campus)
and boyfriend
- ___: current boyfriend for
past year or so per pt, no relationship changes lately
- Trauma: abortion as above, otherwise denies
- Military: ___
- Religion: family is ___ Catholic, pt states they go to
church regularly, she does not
- Legal (Arrests/Probations/Prison): denies
- Access to Firearms: boyfriend is ___ and he
has a gun. patient states that she is not tempted by this.

Substance Use Hx:
- Cigarettes: denies
- EtOH: occcasional, small social amount twice a month
- Illicits/IVDU: denies
 
Family History:
Family Psych Hx:                   
- Dx: depression in grandmother, patient unsure
- SAs/Deaths by Suicide/Suspicious Deaths: denies
- EtOH/Substance Use D/Os: denies
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Neuropsychiatric Examination:
*VS:  
BP: 113/61  HR: 87   temp: 99.4  resp: 16  O2 sat: 100% RA   
  
Neurological:
    *station and gait: not formally assessed
    *tone and strength: Normal tone; strength grossly WNL, 
moving
all 4 extremities freely anti-gravity
    cranial nerves: PER, EOMI, face grossly symmetrical, moves
facial musculature grossly symmetrically, not drooling nor
dysarthric, hearing grossly intact, voice not hoarse, turns 
heads
and shrugs shoulders freely
    abnormal movements: No abnormal movements noted, no tremor

Mental Status Exam:
  *Appearance: heavy set woman of stated age, wearing cross
necklace, in NAD; boyfriend, mother, father are in chairs  
around
her (interview is conducted privately with patient alone)
  * Behavior: Cooperative, well-related, appropriate eye 
contact;
no notable PMR or PMA
  * Speech: Normal rate/tone/volume; prosody intact
  * Mood/Affect: "okay"/ Mood congruent, reactive, full
  * Thought process: linear, no LOA
  * Thought Content: SI as per HPI. No HI/AVH. Does not appear 
to
be responding to internal stimuli
  *Judgment/Insight: poor / poor given self-harm behavior and
head banging as a response to her triggers and stress

Cognition:
    *Arousal level & orientation: A&O x
    *Memory: ___ immed recall, ___ delayed recall 
    *Attention: Intact to MOYB
   *Fund of knowledge: Presidential candidates= correct
    *Language: Fluent, no paraphasic errors, prosody intact

DISCHARGE PHYSICAL EXAM:
Mental Status:
-Appearance: woman appearing stated age, well groomed, wearing
casual clothes, in no acute distress
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor retardation or agitation
-Attitude: cooperative
-Mood: "good"
-Affect: Mood-congruent, stable
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI, denies plan/intent, denies violent 
ideation
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli, no delusions
-Insight: Fair
-Judgment: Fair
 
Pertinent Results:
___ 10:40AM BLOOD WBC-10.0 RBC-4.76 Hgb-12.0 Hct-38.2 
MCV-80* MCH-25.2* MCHC-31.4* RDW-14.7 RDWSD-42.5 Plt ___
___ 05:03PM BLOOD Glucose-84 UreaN-8 Creat-0.7 Na-141 K-4.0 
Cl-104 HCO3-22 AnGap-15
___ 06:25AM BLOOD ALT-19 AST-15 AlkPhos-87 TotBili-0.3
___ 05:03PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___: HgbA1c 5.7%, TC ___. LEGAL & SAFETY:  
On admission, Ms. ___  signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Ms. ___  was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Ms. ___ was admitted to the inpatient psychiatric unit, 
after suicidal attempt by overdosing on Zoloft in a context of 
having problems at school, recent abortion, and anniversary of 
her grandparents deaths. Patient took a 'handful' of 
medications, however boyfriend interfered and made her spit 
out/vomit all pills. She discussed that ___ previously helped 
her mood, but she self-discontinued over the summer (was on 
Zoloft 100mg daily) because she felt she didn't need it anymore. 
Zoloft was restarted at 25mg, and titrated up to 50 mg prior to 
discharge with good effect, mood improved with support from 
staff and family and structure. We discussed appropriate coping 
mechanisms and various relaxation techniques. Patient was 
attending groups, her sleep and appetite pattern normalized, and 
her energy improved. Team met with patient's parents to discuss 
circumstances leading to admission, baseline behavior, 
medication changes and plans for aftercare. Patient's boyfriend 
was also a part of the meeting.

3. SUBSTANCE USE DISORDERS:
#) Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Ms. 
___ has no chronic medical issues requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___  was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ often 
attended these groups.  Ms. ___ was visible on the milieu 
and appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4 (her therapist recently 
retired), therefore there were no outside providers to be 
contacted.  Ms. ___ was referred to both an outpatient 
psychiatrist and therapist upon discharge.

Ms. ___ gave verbal and written permission for the team to 
contact her parents, who was also given an update on Ms. 
___ progress while admitted and discharge plan. A family 
meeting was held ___ with family and patient. 

6. INFORMED CONSENT: 
*Medication: Zoloft (sertraline)
---Benefits: Treatment of depression
---Adverse effects: Decreased appetite, nausea, diarrhea, 
constipation, dry mouth, insomnia, tremors, headache, dizziness, 
sexual dysfunction (decreased sexual desire, anorgasmia), 
sweating, hypotension, bruising, hyponatremia/SIADH (rare, in 
older patients), seizures (rare), weight gain (unusual), 
sedation (unusual), activation of suicidal ideation (rare)

Ms. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She/He appeared to appreciate the information 
conveyed in the consent process by asking appropriate questions, 
which were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment.  Ms. ___ understood the above and 
consented to begin the medication.

7. RISK ASSESSMENT
Risk factors include recent pill ingestion as suicidal attempt, 
acute psychosocial stressors as noted above, previous suicide 
attempt (although low lethality, cutting stomach), current lack 
of outpatient prescriber, access to lethal weapon
(boyfriend work as a ___ and carries gun for his 
job), prior attendance of a partial program, and poor coping 
skills as noted above, poor medication compliance. Protective 
factors include help-seeking behavior, consistent outpatient 
follow-up with therapist, social supports, stable housing.

Our prognosis of this patient is fair. 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD, severe recurrent, no psychotic features, PTSD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___